US05096910
160 g (0.57 mol) of 2-ethoxycarbonyl-5-nitro-7-methyl-benzothiazole-N-oxide are initially introduced in 1.0 1 of methanol, 42 g (0.62 mol of NH:) of an aqueous ammonia solution are added and the mixture is stirred at 20° C. to 25° C. for 5 hours. The crystalline product is isolated by filtering off with suction. 140 g (96 % of theory) of 2-carbamyl-5-nitro-7-methyl-benzothiazole-N-oxide of melting point >250° C. are obtained.

reactant | 2-ethoxycarbonyl-5-nitro-7-methyl-benzothiazole-N-oxide | 0.57 mol, 160 g | C(C)OC(=O)C=1SC2=C([N+]1[O-])C=C(C=C2C)[N+](=O)[O-] | C11H10N2O5S
reactant | ammonia | 0.62 mol, 42 g | N | H3N
solvent | methanol | CO | CH4O
product | 2-carbamyl-5-nitro-7-methyl-benzothiazole-N-oxide | 140 g, 96 % | C(N)(=O)C=1SC2=C([N+]1[O-])C=C(C=C2C)[N+](=O)[O-] | C9H7N3O4S
